2126-01-23 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Blood pressure dropped into the 80s transiently and responded to IVF
   boluses.
   Dr. [**Last Name (STitle) 1948**] passed by and recommended ID consult.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2126-1-22**] 08:00 AM
   Meropenem - [**2126-1-22**] 01:37 PM
   Linezolid - [**2126-1-23**] 02:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-1-23**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-23**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 84 (84 - 99) bpm
   BP: 89/65(70) {83/41(54) - 104/67(75)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 92.6 kg (admission): 86 kg
             Total In:
                                                                  6,347 mL
                                                                    879 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  1,807 mL
                                                                    879 mL
   Blood products:
   Total out:
                                                                    405 mL
                                                                     80 mL
   Urine:
                                                                    205 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,942 mL
                                                                    799 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   133 K/uL
   11.2 g/dL
   89 mg/dL
   3.3 mg/dL
   27 mEq/L
   3.9 mEq/L
   20 mg/dL
   107 mEq/L
   143 mEq/L
   35.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2126-1-22**]  03:25 AM
                             [**2126-1-23**]  04:26 AM
   WBC
   18.6
   7.6
   Hct
   41.9
   35.6
   Plt
   162
   133
   Cr
   4.7
   3.3
   TropT
   0.05
   Glucose
   129
   89
   Other labs: PT / PTT / INR:15.4/27.1/1.4, CK / CKMB /
   Troponin-T:25/6/0.05, ALT / AST:13/23, Alk Phos / T Bili:89/0.5,
   Amylase / Lipase:136/35, Lactic Acid:1.3 mmol/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOTENSION (NOT SHOCK)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   82 yom with hx of ESRD on HD, Atrial Fibrillation/Flutter, C.diff, CVA
   x 2, CAD s/p MI, diastolic CHF, hx of Klebsiella urosepsis, MDR E.Coli
   Sepsis, MRSA Sepsis who presents with one day of nausea, vomiting and
   weakness.
   .
   # Sepsis:  Mr. [**Known lastname 5531**] has history of MDR bactermias and presents with
   symptoms of n/v/d in the setting of leukocytosis and hypotension which
   are all concerning for sepsis.  He was given Vancomycin 1gm IV x 1, CTX
   1gm IV x 2 and Zosyn 4.5gm IV x 1.  Vancomycin and Zosyn have now been
   discontined.  Linezolid was added yesterdy to cover his previous MRSA
   and VRE.   Meropenem has been added to cover his previous MDR E.coli
   and ESBL Klebsiella.  will cont with that regimen for now.
   -- cont Linezolid/Meropenem
   -- follow up cultures
   -- trend fever WBC curve
   -- ID consult
   .
   # ESRD on HD:  Patient on T/Th/Sat dialysis.  Renal aware
   -- likely HD tomorrow
   -- may need new line placed if +blood cultures
   .
   # COPD:  cont home spiriva, atrovent.
   .
   # Atrial Fibrillation: currently in atrial fibrillation, likely in
   setting of infection.  Cardiac enzymes sent yesterday and were
   negative, will repeat today. TSH normal
   -- f/u cardiac enzymes
   -- monitor on tele
   -- cont home ASA
   .
   # Depression: cont home Fluoxetine
   .
   # FEN: Renal Diet, replete lytes
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: PIV
   .
   # Code: Full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition: Regular Renal
   Glycemic Control:  None
   Lines:
   22 Gauge - [**2126-1-22**] 12:43 AM
   20 Gauge - [**2126-1-22**] 12:44 AM
   Prophylaxis:
   DVT:  Hep SQ
   Stress ulcer:  PPI
   VAP:  None
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2126-1-22**] 12:43 AM
   22 Gauge - [**2126-1-22**] 12:43 AM
   20 Gauge - [**2126-1-22**] 12:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-01-24 07:06:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   ID consult obtained, continues on Linezolid/Meropenem
   HCT stable, guaiac + stools
   BP stable overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2126-1-22**] 08:00 AM
   Meropenem - [**2126-1-23**] 12:57 PM
   Linezolid - [**2126-1-24**] 02:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-1-23**] 08:12 PM
   Heparin Sodium (Prophylaxis) - [**2126-1-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-24**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 87 (77 - 94) bpm
   BP: 109/67(75) {90/52(63) - 118/80(85)} mmHg
   RR: 19 (11 - 25) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.6 kg (admission): 86 kg
             Total In:
                                                                  2,240 mL
                                                                    353 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                  1,440 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                    335 mL
                                                                    140 mL
   Urine:
                                                                    335 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,905 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   133 K/uL
   11.2 g/dL
   89 mg/dL
   3.3 mg/dL
   27 mEq/L
   3.9 mEq/L
   20 mg/dL
   107 mEq/L
   143 mEq/L
   36.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2126-1-22**]  03:25 AM
                             [**2126-1-23**]  04:26 AM
                             [**2126-1-23**]  03:45 PM
   WBC
   18.6
   7.6
   Hct
   41.9
   35.6
   36.2
   Plt
   162
   133
   Cr
   4.7
   3.3
   TropT
   0.05
   0.05
   Glucose
   129
   89
   Other labs: PT / PTT / INR:15.4/27.1/1.4, CK / CKMB /
   Troponin-T:15/3/0.05, ALT / AST:13/23, Alk Phos / T Bili:89/0.5,
   Amylase / Lipase:136/35, Lactic Acid:1.3 mmol/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOTENSION (NOT SHOCK)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   82 yom with hx of ESRD on HD, Atrial Fibrillation/Flutter, C.diff, CVA
   x 2, CAD s/p MI, diastolic CHF, hx of Klebsiella urosepsis, MDR E.Coli
   Sepsis, MRSA Sepsis who presents with one day of nausea, vomiting and
   weakness.
   .
   # Sepsis:  Mr. [**Known lastname 5531**] has history of MDR bactermias and presents with
   symptoms of n/v/d in the setting of leukocytosis and hypotension which
   are all concerning for sepsis.  He was given Vancomycin 1gm IV x 1, CTX
   1gm IV x 2 and Zosyn 4.5gm IV x 1.  Vancomycin and Zosyn have now been
   discontined.  Linezolid was added yesterdy to cover his previous MRSA
   and VRE.   Meropenem has been added to cover his previous MDR E.coli
   and ESBL Klebsiella.  will cont with that regimen for now.
   -- cont Linezolid/Meropenem
   -- follow up cultures
   -- trend fever WBC curve
   -- ID consult
   .
   # ESRD on HD:  Patient on T/Th/Sat dialysis.  Renal aware
   -- likely HD tomorrow
   -- may need new line placed if +blood cultures
   .
   # COPD:  cont home spiriva, atrovent.
   .
   # Atrial Fibrillation: currently in atrial fibrillation, likely in
   setting of infection.  Cardiac enzymes sent yesterday and were
   negative, will repeat today. TSH normal
   -- f/u cardiac enzymes
   -- monitor on tele
   -- cont home ASA
   .
   # Depression: cont home Fluoxetine
   .
   # FEN: Renal Diet, replete lytes
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: PIV
   .
   # Code: Full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2126-1-22**] 12:43 AM
   22 Gauge - [**2126-1-22**] 12:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-01-25 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No Events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2126-1-22**] 08:00 AM
   Meropenem - [**2126-1-23**] 12:57 PM
   Linezolid - [**2126-1-24**] 02:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-1-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2126-1-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-1-25**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96
   HR: 96 (76 - 99) bpm
   BP: 124/77(89) {91/56(66) - 127/90(96)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 92.6 kg (admission): 86 kg
                  Total In:
                                                                  1,154 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
                                                                    434 mL
   Blood products:
   Total out:
                                                                  3,300 mL
                                                                    100 mL
   Urine:
                                                                    300 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,146 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   139 K/uL
   11.8 g/dL
   84 mg/dL
   3.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   24 mg/dL
   106 mEq/L
   141 mEq/L
   37.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2126-1-22**]  03:25 AM
                             [**2126-1-23**]  04:26 AM
                             [**2126-1-23**]  03:45 PM
                             [**2126-1-24**]  08:01 AM
   WBC
   18.6
   7.6
   6.3
   Hct
   41.9
   35.6
   36.2
   37.2
   Plt
   162
   133
   139
   Cr
   4.7
   3.3
   3.8
   TropT
   0.05
   0.05
   Glucose
   129
   89
   84
   Other labs: PT / PTT / INR:14.4/30.2/1.3, CK / CKMB /
   Troponin-T:15/3/0.05, ALT / AST:[**12-9**], Alk Phos / T Bili:139/0.4,
   Amylase / Lipase:136/35, Lactic Acid:1.3 mmol/L, Ca++:8.3 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   82 yom with hx of ESRD on HD, Atrial Fibrillation/Flutter, C.diff, CVA
   x 2, CAD s/p MI, diastolic CHF, hx of Klebsiella urosepsis, MDR E.Coli
   Sepsis, MRSA Sepsis who presents with one day of nausea, vomiting and
   weakness.
   # Sepsis:  Mr. [**Known lastname 5531**] has history of MDR bactermias and presented with
   symptoms of n/v/d in the setting of leukocytosis and hypotension which
   were are all concerning for sepsis.  He was given Vancomycin 1gm IV x
   1, CTX 1gm IV x 2 and Zosyn 4.5gm IV x 1.  Vancomycin and Zosyn have
   now been discontined.  Linezolid was added two days ago to cover his
   previous MRSA and VRE.   Meropenem has been added to cover his previous
   MDR E.coli and ESBL Klebsiella.  ID was consulted yesterday and
   recommended to discontinue his linezolid.  Blood cultures from the OSH
   are negative.  Blood cultures from here show NGTD.  Urine culture shows
   +yeast.  .
   -- d/c Linezolid
   -- cont [**Last Name (un) **] for now
   -- follow up cultures
   -- trend fever WBC curve
   -- f/u ID recs
   # ESRD on HD:  Patient on T/Th/Sat dialysis.  Renal aware
   -- HD today
   -- may need new line placed if +blood cultures.
   # COPD:  cont home spiriva, atrovent.
   # Atrial Fibrillation: currently in atrial fibrillation, likely in
   setting of infection.  Patient was ROMI. TSH normal
   -- cont home ASA
   # Depression: cont home Fluoxetine
   # FEN: Renal Diet, replete lytes
   # Prophylaxis: Subcutaneous heparin
   # Access: PIV
   # Code: Full
   # Communication: Patient
   # Disposition: call out to medical floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2126-1-22**] 12:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: